US04436748
A solution of 7.0 g of 6,7-dichloro-5-hydroxybenzo[b]thiophene in 50 ml of dry tetrahydrofuran is cooled to -30°, using a dry ice-carbon tetrachloride bath and to the mixture is added dropwise, 35 ml of 2.2 M n-butyllithium in hexane while the temperature is maintained below -20°. Following the addition, the bath is replaced with an ice-water bath and the reaction is stirred for 4 hrs at a temperature of 0°-5°. To the mixture is added dropwise solution of 3 ml of freshly distilled proprionaldehyde in 5 ml of tetrahydrofuran. The bath is removed. The reaction mixture is stirred for 20 mins and poured onto cold 10% hydrochloric acid. The mixture is extracted 3 times with ethyl ether. The combined ether extracts are washed, dried and the solvent is removed to give a solid. Recrystallization from ethyl ether and hexane gives 5.9 g of 6,7-dichloro-5-hydroxy-α-ethylbenzo[b]thiophene-2-methanol, mp 145°-145.5°.

reactant | 6,7-dichloro-5-hydroxybenzo[b]thiophene | 7.0 g | ClC=1C(=CC2=C(SC=C2)C1Cl)O | C8H4Cl2OS
reactant | n-butyllithium | 2.2 M, 35 ml | C(CCC)[Li]
reactant | proprionaldehyde | C(CC)=O | C3H6O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 6,7-dichloro-5-hydroxy-α-ethylbenzo[b]thiophene-2-methanol | 5.9 g | ClC=1C(=CC2=C(SC(=C2)C(O)CC)C1Cl)O | C11H10Cl2O2S
